US04285940
(a) 7,8-Diacetoxychromone-3-carbonyl chloride
A mixture of 7,8-diacetoxychromone-3-carboxylic acid (9.5 g, 31 mmol), thionyl chloride (2.6 ml), N,N-dimethylformamide (0.1 ml) and benzene (300 ml) was refluxed for 1.5 hours. After the addition of thionyl chloride (2.6 ml) and N,N-dimethylformamide (0.1 ml), the mixture was refluxed for a further hour and evaporated to dryness. The residue was triturated with n-hexane to afford the desired compound (9.3 g, 92.6%).

reactant | 7,8-diacetoxychromone-3-carboxylic acid | 31 mmol, 9.5 g | C(C)(=O)OC1=CC=C2C(C(=COC2=C1OC(C)=O)C(=O)O)=O | C14H10O8
reactant | thionyl chloride | 2.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
reactant | thionyl chloride | 2.6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
product | 7,8-Diacetoxychromone-3-carbonyl chloride | 9.3 g, 92.6% | C(C)(=O)OC1=CC=C2C(C(=COC2=C1OC(C)=O)C(=O)Cl)=O | C14H9ClO7
